US05132310
rac-5-[2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethyl]-2-hydroxybenzoic acid methyl ester.
A mixture of 0.7 g of rac-5-[2-(3,4-dihydro-6-hydroxy2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-2-hydroxybenzoic acid methyl ester, 0.2 g of 5% palladium on carbon and 20 ml of methanol was hydrogenated at atmospheric pressure for 4 hours. The catalyst was separated by filtration and the filtrate was evaporated. The residue was passed over 10 g of silica gel (70-230 mesh) using methylene chloride. The product was crystallized from ether/hexane to give 0.5 g of colorless crystals with m.p. 108°-110°.

reactant | rac-5-[2-(3,4-dihydro-6-hydroxy2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-2-hydroxybenzoic acid methyl ester | 0.7 g | COC(C1=C(C=CC(=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)O)=O | C23H24O5
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | rac-5-[2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethyl]-2-hydroxybenzoic acid methyl ester | 0.5 g | COC(C1=C(C=CC(=C1)CCC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)O)=O | C23H28O5
